US08022223B2
Step E: Preparation of tert-butyl 4-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate:
Heated a mixture tert-butyl 4-(3-bromo-2-oxopropyl)piperidine-1-carboxylate (1.38 g, 4.32 mmol), 1-(5-bromo-3-phenoxypyridin-2-yl)thiourea (1.0 g, 3.08 mmol), triethylamine (0.731 mL, 5.24 mmol), and ethanol (50 mL) at reflux overnight. Cooled to ambient temperature and partitioned between into water and ethyl acetate. Washed the organic layer with water, brine, dried and concentrated. Purified by MPLC (Biotage) eluting with 3:1 hexane:ethyl acetate to afford the title compound (1.54 g, 92%) as a white powder: 1H NMR (CDCl3) δ 8.66 (s, 1H), 8.13 (s, 1H), 7.43 (t, 2H), 7.25 (t, 1H), 7.12 (s, 1H), 7.06 (d, 2H), 6.45 (s, 1H), 4.08 (m, 2H), 2.67 (m, 2H), 2.56 (d, 2H), 1.85 (m, 1H), 1.66 (m, 2H), 1.44 (s, 9H), 1.15 (m, 2H).

reactant | tert-butyl 4-(3-bromo-2-oxopropyl)piperidine-1-carboxylate | 4.32 mmol, 1.38 g | BrCC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H22BrNO3
reactant | 1-(5-bromo-3-phenoxypyridin-2-yl)thiourea | 3.08 mmol, 1.0 g | BrC=1C=C(C(=NC1)NC(=S)N)OC1=CC=CC=C1 | C12H10BrN3OS
reactant | triethylamine | 5.24 mmol, 0.731 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | tert-butyl 4-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate | 1.54 g, 92% | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CC1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1 | C25H29BrN4O3S
